US07459554B2
3-Cyclobutyl-1-[3-(2-nitro-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-8-ylamine:
A solution of 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol (2.00 g, 7.13 mmol) in DMF (36.7 mL) was charged with Cs2CO3 (3.48 g, 10.7 mmol) and stirred at rt for 30 min. A DMF solution of 2-nitrobenzyl bromide (1.54 g, 7.13 mmol), was then added to the reaction mixture. The reaction was allowed to progress at rt under nitrogen for 3.5 h. TLC analysis showed that the reaction was complete. The product was purified using silica gel column chromatography (1-3% NH3 in MeOH:CH2Cl2). The final product was concentrated to a yellow solid; 1H NMR (CDCl3, 400 MHz) δ 2.00-2.08 (m, 1H), 2.11-2.23 (m, 1H), 2.45-2.53 (m, 2H), 2.59-2.69 (m, 2H), 3.77-3.86 (m, 1H), 5.57 (s, 2H), 7.01-7.05 (m, 2H), 7.11 (d, J=5.6 HZ, 1H), 7.27-7.30 (m, 1H), 7.32-7.33 (m, 1H), 7.42 (t, J=16.4 Hz, 1H), 7.48-7.52 (m, 1H), 7.67-7.71 (m, 1H), 7.92 (dd, J=8.0 Hz, 1H), 8.17 (d, J=9.5 Hz, 1H); MS (ES+): m/z 416.01 (100) [MH+].

reactant | 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol | 7.13 mmol, 2.00 g | NC=1C=2N(C=CN1)C(=NC2C=2C=C(C=CC2)O)C2CCC2 | C16H16N4O
reactant | Cs2CO3 | 10.7 mmol, 3.48 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-nitrobenzyl bromide | 7.13 mmol, 1.54 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | DMF | 36.7 mL | CN(C)C=O | C3H7NO
product | 3-Cyclobutyl-1-[3-(2-nitro-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-8-ylamine | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC(=CC=C2)OCC2=C(C=CC=C2)[N+](=O)[O-] | C23H21N5O3
